US06121271
(2-Benzyl-4,5-dimethyl-thiophen-3-yl)-(4-methoxy-3,5-dimethyl-phenyl)-methanone
To a suspension of 3,5-dimethyl-p-anisic acid (15.2 g, 84.4 mmol, RN-21553-46-8) in anhydrous methylene chloride (200 mL) at room temperature under nitrogen was added oxalyl chloride (9.6 mL, 110 mmol) and N,N-dimethylformamide (5 drops). After two hours the solvent was removed. The resulting residue was dissolved in anhydrous methylene chloride (200 mL), and added to 2,3-dimethyl-5-benzylthiophene (17.1 g, 84.4 mmol) under nitrogen. The resulting mixture was, cooled to -78° C., and tin(IV) chloride (10.8 mL, 92.8 mmol) was added quickly. The -78° C. bath was removed and the mixture was stirred at room temperature for 2 h. The reaction mixture was then poured onto ice water (1 L), and the resulting mixture was extracted once with diethyl ether (700 mL), and a second time with diethyl ether (400 mL). The combined diethyl ether extracts were washed with ice water(500 mL), dilute sodium bicarbonate (500 mL), water (500 mL), brine (1L), and then dried (Na2SO4). Concentration under reduced pressure gave the title compound as a yellow oil (25.2 g, 82%): NMR (DMSO-d6) δ 7.40 (s, 2 H), 7.24-7.15 (m, 3 H), 7.06 (d, 2 H), 3.83 (s, 2 H), 3.70 (s, 3 H), 2.28 (s, 3 H), 2.26 (s, 6 H), 1.83 (s, 3 H).

reactant | 3,5-dimethyl-p-anisic acid | 84.4 mmol, 15.2 g | CC=1C=C(C(=O)O)C=C(C1OC)C | C10H12O3
reactant | oxalyl chloride | 110 mmol, 9.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,3-dimethyl-5-benzylthiophene | 84.4 mmol, 17.1 g | CC=1SC(=CC1C)CC1=CC=CC=C1 | C13H14S
reactant | tin(IV) chloride | 92.8 mmol, 10.8 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
product | (2-Benzyl-4,5-dimethyl-thiophen-3-yl)-(4-methoxy-3,5-dimethyl-phenyl)-methanone | 25.2 g, 82% | C(C1=CC=CC=C1)C=1SC(=C(C1C(=O)C1=CC(=C(C(=C1)C)OC)C)C)C | C23H24O2S
